US08685274B2
Hydrochloric acid (1 M) (30 ml) was added to 1-methoxymethylene-4-(3-propylcyclopentyl)cyclohexane (17.0 g) obtained in the first step, which was dissolved in (200 ml), and the mixture was stirred at room temperature for 2 hours. Water (100 ml) was added to the mixture, which was extracted with toluene. The combined organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Ethanol (200 ml) and toluene (50 ml) was added to the residue, and a NaOH aqueous solution (20%) (30 ml) was added under ice-cooling, and the mixture was stirred at room temperature for another 3 hours. A saturated aqueous solution of ammonium chloride was added to neutralize and the mixture was extracted with toluene. The combined organic layer was washed with water, dried over anhydrous magnesium sulfate, and the toluene was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate/n-heptane= 1/20 by volume) to give 4-(3-propylcyclopentyl)cyclohexanecarboaldehyde (15.0 g).

reactant | Hydrochloric acid | 1 M, 30 ml | Cl | ClH
reactant | 1-methoxymethylene-4-(3-propylcyclopentyl)cyclohexane | 17.0 g | COC=C1CCC(CC1)C1CC(CC1)CCC | C16H28O
solvent | Water | 100 ml | O | H2O
product | 4-(3-propylcyclopentyl)cyclohexanecarboaldehyde | 15.0 g | C(CC)C1CC(CC1)C1CCC(CC1)C=O | C15H26O
